US09023864B2
4-[3-(10-Carboxymethyl-6,7,8,9-tetrahydropyrido[1,2-α]indol-7-yl)-3H-[1,2,3]triazol-4-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound was prepared using procedures described in EXAMPLE 3 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and tert-butyl 4-ethynylpiperidine-1-carboxylate. MS (+ESI) m/z: 480.2.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | tert-butyl 4-ethynylpiperidine-1-carboxylate | C(#C)C1CCN(CC1)C(=O)OC(C)(C)C | C12H19NO2
product | 4-[3-(10-Carboxymethyl-6,7,8,9-tetrahydropyrido[1,2-α]indol-7-yl)-3H-[1,2,3]triazol-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1N(N=NC1)C1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1 | C26H33N5O4
